US07745484B2
Step 2: 1-(2,2-dimethoxyethylcyclopent-3-enol
A solution of 4-(2,2-dimethoxyethyl)hepta-1,6-dien-4-ol (28 g, 140 mmol) in DCM (2L) was charged to a 3 L RB flask. Dry argon was bubbled through the solution for 30 minutes. Grubbs second generation catalyst (5.9 g, 7.0 mmol) was added and the reaction was allowed to stir under argon for 15 hours. The reaction was quenched with a solution of tetrakis-(hydroxymethyl)phosphonium chloride (27 g, 140 mmol) in isopropanol (200 mL) and 10 N NaOH (14 mL), and stirred for 15 hours. The reaction was diluted with water (1 L) and poured into a seperatory funnel. The DCM layer was separated and the aqueous was extracted with DCM (3×100 mL). The combined organics were concentrated to a dark oil which was purified by flash chromatography on a 330 g ISCO column eluting by gradient hexanes to 20% EtOAc/ hexanes over a 50 minute period. Product fractions were combined to afford the title compound.

reactant | 4-(2,2-dimethoxyethyl)hepta-1,6-dien-4-ol | 140 mmol, 28 g | COC(CC(CC=C)(CC=C)O)OC | C11H20O3
reactant | tetrakis-(hydroxymethyl)phosphonium chloride | 140 mmol, 27 g | [Cl-].OC[P+](CO)(CO)CO
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Grubbs second generation | 7.0 mmol, 5.9 g | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
solvent | isopropanol | 200 mL | C(C)(C)O | C3H8O
solvent | NaOH | 10 N, 14 mL | [OH-].[Na+]
solvent | water | 1 L | O | H2O
product | 2,2-dimethoxyethylcyclopent-3-enol | COC(CC1(CC=CC1)O)OC | C9H16O3
